US07049438B2
4-(6-chloro-2,3-methylenedioxyanilino)-7-(N-methylpiperidin-4-ylmethoxy)-5-tetrahydropyran-4-yloxyquinazoline
A mixture of 7-[N-(tert-butoxycarbonyl)piperidin-4-ylmethoxy]-4-(6-chloro-2,3-methylenedioxyanilino)-5-tetrahydropyran-4-yloxyquinazoline (0.25 g), a concentrated aqueous formaldehyde solution (37%, 0.5 ml) and formic acid (5 al) was stirred and heated to 100° C. for 2 hours. The mixture was cooled to ambient temperature and evaporated. The residue was purified by column chromatography on silica using a 24:1 mixture of methylene chloride and a saturated methanolic ammonia solution as eluent. The material so obtained was partitioned between methylene chloride and an aqueous ammonium hydroxide solution. The organic layer was dried over magnesium sulphate and evaporated. There was thus obtained the title compound (0.1 g); NMR Spectrum: (CDCl3) 1.4–1.6 (m, 2H), 1.75–1.9 (m, 3H), 1.9–2.1 (m, 4H), 2.2–2.3 (m, 2H), 2.29 (s, 3H), 2.9 (d, 2H), 3.6–3.7 (m, 2H), 3.95 (d, 2H), 4.0–4.1 (m, 2H), 4.75 (m, 1H), 6.05 (s, 2H), 6.5 (d, 1H), 6.72 (d, 1H ), 6.81 (d, 1H), 6.97 (d, 1H), 8.5 (s, 1H), 9.26 (s, 1H); Mass Spectrum: M+H+ 527 and 529.

reactant | 7-[N-(tert-butoxycarbonyl)piperidin-4-ylmethoxy]-4-(6-chloro-2,3-methylenedioxyanilino)-5-tetrahydropyran-4-yloxyquinazoline | 0.25 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=CC(=C2C(=NC=NC2=C1)NC1=C2C(=CC=C1Cl)OCO2)OC2CCOCC2 | C31H37ClN4O7
reactant | formaldehyde | 0.5 ml | C=O | CH2O
solvent | formic acid | C(=O)O | CH2O2
product | 4-(6-chloro-2,3-methylenedioxyanilino)-7-(N-methylpiperidin-4-ylmethoxy)-5-tetrahydropyran-4-yloxyquinazoline | 0.1 g | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=CC(=C13)OC1CCOCC1)OCC1CCN(CC1)C)OCO2 | C27H31ClN4O5
